US06649600B1
3-[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.3.1]non-1-yl]-propionic acid
3-[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.3.1]non-1-yl]-acrylic acid (150 mg) was hydrogenated in the presence of 10% Pd/C in THF:MeOH (2:1, 5 ml) @ 60 psi overnight. Catalyst was filtered through celite and the solvent was concentrated. Solid was purified by crystallizing from ether Yield 105 mg. Mass (ES+ 431)

reactant | 3-[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.3.1]non-1-yl]-acrylic acid | 150 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCCC(CCC1)(C2)C=CC(=O)O)=O)CCC | C23H32N4O4
solvent | THF MeOH | 5 ml | C1CCOC1.CO
catalyst | Pd/C | [Pd] | Pd
product | 3-[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.3.1]non-1-yl]-propionic acid | O=C1N(C(C=2NC(=NC2N1CCC)C12CCCC(CCC1)(C2)CCC(=O)O)=O)CCC | C23H34N4O4
